datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7]([C:8]([H:23])([H:24])[H:25])=[C:9]([C:10]([H:26])([H:27])[H:28])[C:11]#[C:12][H:29])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([C:8]([H:23])([H:24])[H:25])[C:9]1([C:10]([H:26])([H:27])[H:28])[C:11]#[C:12][H:29])[H:13],69.1197
[C:0]([C:1]([O:2][H:10])([C:3]([O:4][O:5])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([O:2][H:10])[C:3]([O:4][O:5][H:9])([H:11])[H:12])([H:6])([H:7])[H:8],103.847
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([S:11][H:18])([C:12](=[S:13])[H:19])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:17])[H:6])([H:4])[H:5].[C:9]([C:10]([S:11][H:18])[C:12](=[S:13])[H:19])([H:14])([H:15])[H:16],20.5016
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]1([C:6]([C:7]([H:20])([H:21])[H:22])[H:19])[H:18])([H:8])([H:9])[H:10],30.8779
[H:0].[O:1][O:2][H:3]>>[H:0][O:2][H:3].[O:1],-0.6698584
[H:3].[O:0]=[S:1]=[O:2]>>[O:0]([S:1]=[O:2])[H:3],30.706376
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[N:6]([H:7])[H:8]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][N:6]([H:7])[H:8],56.10744
[C:0]([O:1][O:2][O:3][C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([O:1])([H:5])([H:6])[H:7].[O:2]([O:3][C:4]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],58.3526
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:10])[C:6]#[C:7][H:11])[H:9])[H:8].[H:12]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:10])([C:6]#[C:7][H:11])[H:12])[H:9])[H:8],15.439
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20],67.7808
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])=[C:5]([H:13])[C:6]1([H:14])[H:15])[H:9])([H:7])[H:8]>>[C:0](=[C:1][H:9])([H:7])[H:8].[C:2]1([H:10])=[C:3]([H:11])[C:4]([H:12])=[C:5]([H:13])[C:6]1([H:14])[H:15],188.28
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12](=[S:13])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:17])[H:6].[C:11]([C:12]=[S:13])([H:14])([H:15])[H:16],79.0776
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:10]([H:11])([H:12])[H:13],27.8236
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([H:15])([H:16])[H:17])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:12])[H:5].[C:10]([C:11]([H:15])([H:16])[H:17])([H:13])[H:14],88.7008
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:20])[H:4].[C:9]([C:10]([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])[H:21])([H:17])([H:18])[H:19],38.0744
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9](=[C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:9](=[C:10]([H:12])[H:13])[H:11])[H:5],13.5143
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:6]([H:7])([H:8])[H:9],1.2552
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]#[C:8][C:9]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:10])([H:11])[H:12])=[C:8][C:9]([H:13])([H:14])[H:15])[H:3],54.1828
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:30])([H:31])[H:32])[C:26]([H:33])([H:34])[H:35])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:24]([C:23]([H:27])([H:28])[H:29])([C:25]([H:30])([H:31])[H:32])[C:26]([H:33])([H:34])[H:35])[H:13])([H:11])[H:12],9.91608
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[O:4])[H:11])([H:5])([H:6])[H:7].[O:12][O:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[O:4])[H:11])[O:12][O:13])([H:5])([H:6])[H:7],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:15])([H:17])[H:18])[H:16])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11],125.9384
